US04188401
A mixture of 72 g of 1-(5-aminocarbonyl-pentyl)-3-(2-cyanoacetyl)-urea, 125 ml of water, 125 ml of dioxane, 23.2 g of sodium nitrite and 1 ml of acetic acid was adjusted to pH 4.5 to 5 at 50° C. by slowly adding 15% strength sulphuric acid dropwise. The reaction mixture was stirred at 50° C. for 2 hours, diluted with 600 ml of water and 600 ml of ethyl acetate, then cooled at 20° C. and adjusted to a pH value of 2. The crystals were separated off, washed with water and dried in vacuo. 61.3 g of 1-(5-aminocarbonyl-pentyl)-3-(2-cyano-2-oximinoacetyl)-urea of melting point 187°-189° C. were obtained.

reactant | 1-(5-aminocarbonyl-pentyl)-3-(2-cyanoacetyl)-urea | 72 g | NC(=O)CCCCCNC(=O)NC(CC#N)=O | C10H16N4O3
reactant | dioxane | 125 ml | O1CCOCC1 | C4H8O2
reactant | sodium nitrite | 23.2 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 600 ml | O | H2O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 125 ml | O | H2O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(5-aminocarbonyl-pentyl)-3-(2-cyano-2-oximinoacetyl)-urea | 61.3 g | NC(=O)CCCCCNC(=O)NC(C(=NO)C#N)=O | C10H15N5O4
